US05891902
Ethyl 3-[4-(2-pyrrolidinylethoxy)benzhydryl]-indole-2-carboxylate
Substantially the same procedure as in Reference Example 5 was repeated using 4-(2-pyrrolidinylethoxy)benzhydrol (19.4 g, 65.1 mmol) and ethyl indole-2-carboxylate (13.55 g, 71.6 mmol) to give 31.2 g (quantitative) of the title compound.

reactant | 4-(2-pyrrolidinylethoxy)benzhydrol | 65.1 mmol, 19.4 g | N1(CCCC1)CCOC1=CC=C(C(C2=CC=CC=C2)O)C=C1 | C19H23NO2
reactant | ethyl indole-2-carboxylate | 71.6 mmol, 13.55 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
product | Ethyl 3-[4-(2-pyrrolidinylethoxy)benzhydryl]-indole-2-carboxylate | N1(CCCC1)CCOC1=CC=C(C(C2=CC=CC=C2)C2=C(NC3=CC=CC=C23)C(=O)OCC)C=C1 | C30H32N2O3
